US05569640
2,2-Dimethyl-5-trifluoromethylsulfonyloxy-4H-(1,3)benzodioxin-4-one
80 g (0.41 mol) of 5-hydroxy-2,2-dimethyl-4H-(1,3)benzodioxin-4-one are dissolved in 1.5 l of methylene chloride, 129 g (1.28 mol) of triethylamine are added at 0° C. and 314 g (1.11 mol) of trifluoromethylsulfonic anhydride are then added dropwise in the course of 2 h. The mixture is allowed to warm to 10° C. and is subsequently stirred at this temperature for 10 min, and the mixture is then added with stirring to 1.5 l of water at 0° C. The organic phase is separated off and extracted with methylene chloride, and the combined organic phases are washed with water and saturated sodium chloride solution, dried over sodium sulfate and concentrated in vacuo. The residue is stirred with 200 ml of n-pentane, and the solid is filtered off, subsequently washed with n-pentane and dried at 40° C. on an oil pump.

reactant | 5-hydroxy-2,2-dimethyl-4H-(1,3)benzodioxin-4-one | 0.41 mol, 80 g | OC1=CC=CC=2OC(OC(C21)=O)(C)C | C10H10O4
reactant | triethylamine | 1.28 mol, 129 g | C(C)N(CC)CC | C6H15N
reactant | trifluoromethylsulfonic anhydride | 1.11 mol, 314 g | FC(F)(F)S(=O)(=O)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | water | 1.5 l | O | H2O
solvent | methylene chloride | 1.5 l | C(Cl)Cl | CH2Cl2
product | 2,2-Dimethyl-5-trifluoromethylsulfonyloxy-4H-(1,3)benzodioxin-4-one | CC1(OC(C2=C(O1)C=CC=C2OS(=O)(=O)C(F)(F)F)=O)C | C11H9F3O6S
